US06610846B1
A solution of 3-cyclopentyl-2-(4-trifluoromethylsulfanyl-phenyl)propionic acid (59.6 mg, 0.187 mmol) and triphenylphosphine (49.1 mg, 0.187 mmol) in methylene chloride (468 μL) was cooled to 0° C. and then treated with N-bromosuccinimide (36.7 mg, 0.206 mmol) in small portions. After the complete addition of N-bromosuccinimide, the reaction mixture was allowed to warm to 25° C. over 30 min. The orange reaction mixture was then treated with 2-aminopyridine (35.2 mg, 0.374 mmol). The resulting reaction mixture was stirred at 25° C. for 16 h. The reaction mixture was then concentrated in vacuo to remove methylene chloride. The remaining residue was diluted with ethyl acetate (50 mL). The organic layer was washed sequentially with a 10% aqueous hydrochloric acid solution (1×50 mL), a saturated aqueous sodium bicarbonate solution (1×50 mL) and water (1×50 mL), dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 70-230 mesh, 9/1 hexanes/ethyl acetate) afforded 3-cyclopentyl-N-pyridin-2-yl-2-(4-trifluoromethylsulfanyl-phenyl)-propionamide (25.0 mg, 34%) as a cream solid: mp 101-102° C.; EI-HRMS m/e calcd for C20H21F3N2OS (M+) 394.1327, found 394.1321.

reactant | 3-cyclopentyl-2-(4-trifluoromethylsulfanyl-phenyl)propionic acid | 0.187 mmol, 59.6 mg | C1(CCCC1)CC(C(=O)O)C1=CC=C(C=C1)SC(F)(F)F | C15H17F3O2S
reactant | triphenylphosphine | 0.187 mmol, 49.1 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 0.206 mmol, 36.7 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2-aminopyridine | 0.374 mmol, 35.2 mg | NC1=NC=CC=C1 | C5H6N2
solvent | methylene chloride | 468 μL | C(Cl)Cl | CH2Cl2
product | 3-cyclopentyl-N-pyridin-2-yl-2-(4-trifluoromethylsulfanyl-phenyl)-propionamide | 25.0 mg, 34% | C1(CCCC1)CC(C(=O)NC1=NC=CC=C1)C1=CC=C(C=C1)SC(F)(F)F | C20H21F3N2OS
